US09290517B2
Step A: trans-racemic-2-phenylcyclohexyl acetate
To a stirred solution of trans-racemic-2-phenylcyclohexanol (4.63 g, 26.3 mmol) and tin(II)trifluoromethanesulfonate (219 mg, 0.525 mmol) under nitrogen in anhydrous DCM (100 ml) at room temperature was added acetic anhydride (3.72 ml, 4.02 g, 39.4 mmol) in one portion. The mixture was stirred for 18 hours at room temperature. The mixture was poured into saturated aqueous sodium bicarbonate (200 ml). The mixture was extracted with DCM (2×200 ml). The combined organic layers were washed with brine (70 ml), dried over sodium sulfate, and concentrated under reduced pressure to provide the desired product as a light yellow oil. LC-MS: calculated for C14H18O2 218.29 observed m/e: 219.33 (M+H)+ (Rt 0.93/2 min)

reactant | trans-racemic-2-phenylcyclohexanol | 26.3 mmol, 4.63 g | C1(=CC=CC=C1)[C@H]1[C@@H](CCCC1)O | C12H16O
reactant | tin(II)trifluoromethanesulfonate | 0.525 mmol, 219 mg | FC(S(=O)(=O)[O-])(F)F.[Sn+2].FC(S(=O)(=O)[O-])(F)F
reactant | acetic anhydride | 39.4 mmol, 3.72 ml, 4.02 g | C(C)(=O)OC(C)=O | C4H6O3
reactant | sodium bicarbonate | 200 ml | C([O-])(O)=O.[Na+]
solvent | DCM | 100 ml | C(Cl)Cl | CH2Cl2
product | trans-racemic-2-phenylcyclohexyl acetate | C(C)(=O)O[C@H]1[C@@H](CCCC1)C1=CC=CC=C1 | C14H18O2
